US05232624
0.17 mol of diethyl azodicarboxylate (DEAD), dissolved in THF, is added to a solution of 0.15 mol of 4'-heptyloxy-2,3-difluorobiphenyl-4-ol, 0.17 mol of L(-)-ethyl lactate and 0.15 mol of triphenylphosphine in 400 ml of THF. During this operation, a reaction temperature of 50° C. must not be exceeded. The mixture is stirred for 1 hour at 50° C. and then overnight at room temperature. The solvent is then removed by distillation, the residue is dissolved in hot toluene, and the solution is then left to cool slowly. The triphenylphosphine oxide which precipitates is filtered off with suction, the filtrate is evaporated and the residue is purified by chromatography, to give ethyl 2-[4-(p-heptyloxyphenyl)-2,3-difluorophenoxy]propionate.

reactant | diethyl azodicarboxylate | 0.17 mol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4'-heptyloxy-2,3-difluorobiphenyl-4-ol | 0.15 mol | C(CCCCCC)OC1=CC=C(C=C1)C1=C(C(=C(C=C1)O)F)F | C19H22F2O2
reactant | triphenylphosphine | 0.15 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | ethyl 2-[4-(p-heptyloxyphenyl)-2,3-difluorophenoxy]propionate | C(CCCCCC)OC1=CC=C(C=C1)C1=C(C(=C(OC(C(=O)OCC)C)C=C1)F)F | C24H30F2O4
